*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.options savecurrents

.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)


C1 in inv_in 220n

Vze inv_in teste 0

R1 teste 0 1k

X1 nr2 inv_in vcc vee out uA741
R2 nr2 0 1k
R5 nr2 out 150k

R8 out outf 1k

C2 outf 0 0.1061093248u

* load
*RL outf 0 1k


.op
.end

.control

print all

* time analysis
tran 1e-5 1e-2
plot v(outf)
hardcopy vo1nosso.ps vdb(outf)


* frequency analysis
ac dec 1000 10 100MEG
plot vdb(outf)
plot vp(outf)
hardcopy vo1fnosso.ps vdb(outf)


*input impedance in ohm
let zin = v(in)[40]/i(Vze)[40]
let rez = Re(zin)
let imz = Im(zin)
let abszin = abs(zin)

print zin
print rez
print imz
print abszin

echo "zin_TAB"
echo "Zi = $&rez + ($&imz)j ohm"
echo "|Zi| = $&abszin ohm"
echo "zin_END"

meas ac maxgaindb MAX vdb(outf) from=10 to=10MEG

let cutoff = maxgaindb-3

meas ac f1 WHEN vdb(outf)=cutoff
meas ac f2 WHEN vdb(outf)=cutoff CROSS=LAST

let centralf = sqrt(f2*f1)

meas ac mashimo FIND vdb(outf) AT=centralf

let opampcost = 0.2 + 100 + 5.305 + 5.305 + 1.836 + 1.836 + 13190 + 0.05 + 0.1 + 18.16
let cost = opampcost+3+300+3*0.220

let merit = 1/(0.000001+cost*abs(1000-centralf)*abs(40-mashimo))
let merit_clean = 1/(0.000001+(cost-opampcost)*abs(1000-centralf)*abs(40-mashimo))
print centralf
print cost
print merit
print merit_clean

.endc 
